US04853392
2-Amino-5-(2-chlorophenyl)-6-methoxycarbonyl-7-[2-(2,4,5-trimethylimidazol-1-yl)ethoxymethyl]-1,4,5,8-tetrahydro-4-oxopyrido[2,3-d]pyrimidine
The title compound (110 mg) was prepared from 2-chlorobenzaldehyde (1.05 g), 2,4-diamino-6-hydroxypyrimidine (1.07 g) and methyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]-3-oxobutanoate (2.0 g) by the method of Example 1. M.p. 225°-227° C.

reactant | 2-chlorobenzaldehyde | 1.05 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 2,4-diamino-6-hydroxypyrimidine | 1.07 g | NC1=NC(=CC(=N1)N)O | C4H6N4O
reactant | methyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]-3-oxobutanoate | 2.0 g | CC=1N(C(=C(N1)C)C)CCOCC(CC(=O)OC)=O | C13H20N2O4
product | 2-Amino-5-(2-chlorophenyl)-6-methoxycarbonyl-7-[2-(2,4,5-trimethylimidazol-1-yl)ethoxymethyl]-1,4,5,8-tetrahydro-4-oxopyrido[2,3-d]pyrimidine | 110 mg | NC1=NC(C2=C(N1)NC(=C(C2C2=C(C=CC=C2)Cl)C(=O)OC)COCCN2C(=NC(=C2C)C)C)=O | C24H27ClN6O4
